US07652015B2
Dissolve 1-[4-(4-chloro-pyridin-2-yl)-piperazin-1-yl]-2,2-dimethyl-propan-1-one (1.6 mmol, 0.4 g) in sulfuric acid (2.3 mL) and cool the solution down to 0° C. Add potassium nitrate (1.6 mmol, 0.2 g) and stir the mixture allowing to reach room temperature overnight. Dilute the mixture with water and add sodium hydroxide 10% until basic pH. Extract in ethyl acetate. Dry over sodium sulfate, filter, and concentrate under reduced pressure to give a residue of 1-[4-(4-chloro-5-nitro-pyridin-2-yl)-piperazin-1-yl]-2,2-dimethyl-propan-1-one. Subject residue to silica gel chromatography eluting with a mixture hexanes/ethyl acetate as (from 30% up to 60%). MS(ES): m/z=327 [M+H].

reactant | 1-[4-(4-chloro-pyridin-2-yl)-piperazin-1-yl]-2,2-dimethyl-propan-1-one | 1.6 mmol, 0.4 g | ClC1=CC(=NC=C1)N1CCN(CC1)C(C(C)(C)C)=O | C14H20ClN3O
reactant | potassium nitrate | 1.6 mmol, 0.2 g | [N+](=O)([O-])[O-].[K+]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | sulfuric acid | 2.3 mL | S(O)(O)(=O)=O | H2O4S
solvent | water | O | H2O
product | 1-[4-(4-chloro-5-nitro-pyridin-2-yl)-piperazin-1-yl]-2,2-dimethyl-propan-1-one | ClC1=CC(=NC=C1[N+](=O)[O-])N1CCN(CC1)C(C(C)(C)C)=O | C14H19ClN4O3
